US07262212B2
1-(4-Chlorophenyl)piperazine dihydrochloride (1.31 g, 4.86 mmol) was added to a sodium hydroxide solution, and the resulting mixture was extracted with methylene chloride. The extract was dried over sodium sulfate and then filtered. The filtrate was concentrated under reduced pressure to afford 1-(4-chlorophenyl)piperazine.

reactant | 1-(4-Chlorophenyl)piperazine dihydrochloride | 4.86 mmol, 1.31 g | Cl.Cl.ClC1=CC=C(C=C1)N1CCNCC1
reactant | sodium hydroxide | [OH-].[Na+]
product | 1-(4-chlorophenyl)piperazine | ClC1=CC=C(C=C1)N1CCNCC1 | C10H13ClN2
